* /Users/arachnid/Google Drive/projects/tsunami/spice/tsunami output stage.asc
V1 0 -5 5
V2 +5 0 5
XU1 Vref N001 N002 +5 -5 LT6205
XU2 Vref N009 N010 +5 -5 LT6205
XU3 N008 N007 N003 +5 -5 LT6205
R1 N002 N001 3.3k
R2 N010 N009 3.3k
R3 N005 N002 91
R4 N011 N010 91
R5 N012 N011 75
R6 N006 N005 75
R7 N007 N006 120
R8 N008 N012 120
R9 N006 N003 169
R10 0 N012 169
C1 N005 N011 270p
C2 N006 N012 330p
C3 N003 N007 100p
C4 N008 0 100p
C5 N010 N009 6.8p
C6 N002 N001 6.8p
I1 0 N001 SINE(0.5m 0.5m 1k 0 0 0) AC 2m 0
I2 0 N009 SINE(0.5m 0.5m 1k 0 0 180) AC 2m 180
R12 +5 Vref 10k
R13 Vref 0 1k
R11 N001 N004 500
V4 N004 0 470.5621m
C7 Vref 0 0.1µ
* .op\n.ac dec 1 20000k 100
.tran 0.1
.measure TRAN vpp PP V(n003) FROM=0 TO=0.1
.measure TRAN voff AVG V(n003) FROM=0 TO=0.1
.lib LTC2.LIB
.backanno
.end
